US06403561B1
Ethyl 2-azido-3-(2-methoxyphenyl)propenoate (3.566 g, 144 mmol) was suspended in toluene (800 ml) and the mixture was refluxed for three hours, then cooled and stirred at room temperature overnight. The ethyl 4-methoxyindole-2-carboxylate formed as a yellow solid and was collected.

reactant | Ethyl 2-azido-3-(2-methoxyphenyl)propenoate | 144 mmol, 3.566 g | N(=[N+]=[N-])C(C(=O)OCC)=CC1=C(C=CC=C1)OC | C12H13N3O3
solvent | toluene | 800 ml | C1(=CC=CC=C1)C | C7H8
product | ethyl 4-methoxyindole-2-carboxylate | COC1=C2C=C(NC2=CC=C1)C(=O)OCC | C12H13NO3
